US05120759
A solution of 54.8 g (0.255 mol) of [R]-(-)-2-(p-fluorophenyl)-3-methylbutyryl chloride in 950 ml of methylene chloride was saturated at -10° with ethylene gas. The temperature was then reduced to -56° and 47.5 g (0.356 mol) of aluminum chloride in one portion were added. After 15 minutes, 10.0 g (0.075 mol) more of aluminum chloride were added thereto and the reaction mixture was left to warm slowly to -20°. Then, 500 ml of ice-water were cautiously added, and the organic phase was separated and washed with 3N hydrochloric acid and water. After drying and evaporating the solvent under reduced pressure, 59.6 g of [R]-(+)-6-fluoro-3,4-dihydro-1-isopropyl-2(1H)-naphtone were obtained as a light yellow oil; [α]D20 =+189.5° (c=1, methanol).

reactant | [R]-(-)-2-(p-fluorophenyl)-3-methylbutyryl chloride | 0.255 mol, 54.8 g | FC1=CC=C(C=C1)[C@H](C(=O)Cl)C(C)C | C11H12ClFO
reactant | ethylene | C=C | C2H4
reactant | aluminum chloride | 0.356 mol, 47.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 950 ml | C(Cl)Cl | CH2Cl2
product | [R]-(+)-6-fluoro-3,4-dihydro-1-isopropyl-2(1H)-naphtone | 59.6 g | FC=1C=C2CCC([C@@H](C2=CC1)C(C)C)=O | C13H15FO
